US08012998B2
f) 2-[(RS)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-pyridine
(RS)-1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethanol (123 mg. 0.256 mmol) and PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (125 mg, 0.38 mmol) were suspended in THF (3 mL). To the mixture were added 5-chloro-pyridin-2-ol (50 mg, 0.384 mmol) and then DBAD (0.088 g, 0.384 mmol). The reaction mixture was stirred at 45° C. over night. The mixture was diluted with ethyl acetate and filtered on celite and concentrated under vacuo. The residue was purified by column chromatography (SiO2, EtOAc/H, 1:15) yielded 108 mg (72%) of the title compound as a colorless oil. ES-MS m/e: 593.3 (M+H+).

reactant | (RS)-1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethanol | 0.256 mmol, 123 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(CO[Si](C)(C)C(C)(C)C)O | C25H35Cl2NO2Si
reactant | PPh3 | 3 mmol, 125 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-pyridin-2-ol | 0.384 mmol, 50 mg | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | DBAD | 0.384 mmol, 0.088 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(RS)-1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-pyridine | 108 mg, 72% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(CO[Si](C)(C)C(C)(C)C)OC1=NC=C(C=C1)Cl | C30H37Cl3N2O2Si
